US08877776B2
1.3 Preparation of 4-(6,7-Dimethoxy-quinoline-4-yloxy)-phenylamine
A solution containing potassium formate (5.0 kg), formic acid (3.0 kg), and water (16.0 kg) was added to a mixture of 6,7-dimethoxy-4-(4-nitro-phenoxy)-quinoline (4.0 kg), 10% palladium on carbon (50% water wet, 0.4 kg) in tetrahydrofuran (40.0 kg) that had been heated to approximately 60° C. The addition was carried out such that the temperature of the reaction mixture remained approximately 60° C. When the reaction was deemed complete as determined using in-process HPLC analysis (<2% starting material remaining, typically 1 5 hours), the reactor contents were filtered. The filtrate was concentrated by vacuum distillation at approximately 35° C. to half of its original volume, which resulted in the precipitation of the product. The product was recovered by filtration, washed with water (12.0 kg), and dried under vacuum at approximately 50° C. to afford the title compound (3.0 kg; 97% AUC).

reactant | potassium formate | 5.0 kg | C(=O)[O-].[K+]
reactant | formic acid | 3.0 kg | C(=O)O | CH2O2
reactant | water | 16.0 kg | O | H2O
reactant | 6,7-dimethoxy-4-(4-nitro-phenoxy)-quinoline | 4.0 kg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O5
catalyst | palladium on carbon | 0.4 kg | [Pd] | Pd
solvent | tetrahydrofuran | 40.0 kg | O1CCCC1 | C4H8O
product | 4-(6,7-Dimethoxy-quinoline-4-yloxy)-phenylamine | 3.0 kg, 97% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
